US04468399
Preparation of 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(6-methyl-3-pyridyl)methyl-4-pyrimidone.
Following the procedure of Example 1, 0.75 g. of 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine and 0.78 g. of 2-nitroamino-5-(6-methyl-3-pyridyl)methyl-4-pyrimidone were dissolved in 5 ml. of anhydrous ethanol and the resulting solution refluxed for about 1 day. The solvents were removed by evaporation and the residue extracted with ethyl acetate. The ethyl acetate extract was washed with water and dried. Evaporation of the ethyl acetate yielded crystals of 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(6-methyl-3-pyridyl)methyl-4-pyrimidone which melted at about 154°-5° C. after recrystallization from an ethyl acetate-ether solvent mixture; yield=0.56 g.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | 2-nitroamino-5-(6-methyl-3-pyridyl)methyl-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(6-methyl-3-pyridyl)methyl-4-pyrimidone | CN(C)CC=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C20H26N6OS2
